US04301166
293.7 g (2.2 mols) of aluminium chloride are introduced in portions to a solution of 377 g (2 mols) of 2-chlorobiphenyl in 160 ml (2 mols) of chloroacetyl chloride and 1,000 ml of methylene chloride. After 18 hours, the reaction mixture is poured onto ice and hydrochloric acid. The organic phase is seperated off, washed, dried over sodium sulphate and concentrated in vacuo by distilling off the solvent. The oil which remains is purified by distillation. 478.7 g (90% of theory) of 4(2-chlorophenyl)phenacyl chloride of melting point 47° C. are obtained.

reactant | aluminium chloride | 2.2 mols, 293.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-chlorobiphenyl | 2 mols, 377 g | ClC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Cl
reactant | chloroacetyl chloride | 2 mols, 160 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 1,000 ml | C(Cl)Cl | CH2Cl2
product | 4(2-chlorophenyl)phenacyl chloride | 478.7 g, 90% | ClC1=C(C=CC=C1)C1=CC=C(C(CCl)=O)C=C1 | C14H10Cl2O
